US07691882B2
2-Methyl-5-(3-(4-(pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridine
To a tetrahydrofuran (2 mL) solution of 5-ethynyl-2-methyl-pyridine (10 mg, 85 μmol) described in Manufacturing Example 190-1-1 were added 4-(pyridin-2-yloxymethyl)-phenyl-acetohydroximoyl chloride (31 mg, 0.11 mmol) described in Manufacturing Example 2-1-5 and triethylamine (18 μL, 0.13 mmol), which was stirred for 2 hours and 30 minutes at 50° C. Water was added to the reaction mixture at room temperature, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrated was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (14 mg, 46%).

reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | 5-ethynyl-2-methyl-pyridine | 85 μmol, 10 mg | C(#C)C=1C=CC(=NC1)C | C8H7N
reactant | 4-(pyridin-2-yloxymethyl)-phenyl-acetohydroximoyl chloride | 0.11 mmol, 31 mg | N1=C(C=CC=C1)OCC1=CC=C(C=C1)CC(=NO)Cl | C14H13ClN2O2
reactant | triethylamine | 0.13 mmol, 18 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 2-Methyl-5-(3-(4-(pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridine | 14 mg, 46% | CC1=NC=C(C=C1)C1=CC(=NO1)CC1=CC=C(C=C1)COC1=NC=CC=C1 | C22H19N3O2
